### PR TITLE
[zify] support for int63

### PR DESCRIPTION
**Pull request by fajb**
This PR adds ZifyInt63 which provides support for int63.

Some modification of the zify code was needed to accommodate native constants.

**Kind:**feature 

- [x] Added / updated test-suite
- [x] Corresponding documentation was added 
- [x] Entry added in the changelog

### CODE REVIEW

File: doc/sphinx/addendum/micromega.rst [hunk 1]
```diff
@@ -277,7 +277,12 @@ obtain :math:`-1`. By Theorem :ref:`Psatz <psatz_thm>`, the goal is valid.
    :name: zify
 
    This tactic is internally called by :tacn:`lia` to support additional types e.g., :g:`nat`, :g:`positive` and :g:`N`.
-   By requiring the module ``ZifyBool``, the boolean type :g:`bool` and some comparison operators are also supported.
+   Some additional support is provided by the following modules
+
+   + For boolean operators (e.g., `Nat.leb`), require  the module :g:`ZifyBool`.
```
Comment (JasonGross) [inline doc/sphinx/addendum/micromega.rst:282]:
```suggestion
   + For boolean operators (e.g., `Nat.leb`), require the module :g:`ZifyBool`.
```

File: doc/sphinx/addendum/micromega.rst [hunk 2]
```diff
@@ -277,7 +277,12 @@ obtain :math:`-1`. By Theorem :ref:`Psatz <psatz_thm>`, the goal is valid.
...
+   + For comparison operators (e.g., `Z.compare`), require the module :g:`ZifyComparison`.
```
Comment (JasonGross) [inline doc/sphinx/addendum/micromega.rst:283]:
```suggestion
   + For comparison operators (e.g., :g:`Z.compare`), require the module :g:`ZifyComparison`.
```

File: doc/sphinx/addendum/micromega.rst [hunk 3]
```diff
@@ -277,7 +277,12 @@ obtain :math:`-1`. By Theorem :ref:`Psatz <psatz_thm>`, the goal is valid.
...
+   + For native 63 bit integers, require the module :g:`ZifyInt63`.
```
Comment (JasonGross) [inline doc/sphinx/addendum/micromega.rst:284]: Is it sufficient to `Require` the module, or do we need to `Import` it as well?

File: theories/micromega/ZifyInt63.v [hunk 4]
```diff
@@ -0,0 +1,179 @@
...
+Require Import Int63.
+Require Import ZifyBool.
+Import ZifyClasses.
+
+Lemma to_Z_bounded : forall x, (0 <= to_Z x < 9223372036854775808)%Z.
+Proof. apply to_Z_bounded. Qed.
+
+Instance Inj_int_Z : InjTyp int Z :=
+  mkinj _ _ to_Z (fun x => 0 <= x < 9223372036854775808)%Z to_Z_bounded.
+Add Zify  InjTyp Inj_int_Z.
```
Comment (JasonGross) [inline theories/micromega/ZifyInt63.v:11]:
```suggestion
Add Zify InjTyp Inj_int_Z.
```

File: theories/micromega/ZifyInt63.v [hunk 5]
```diff
@@ -0,0 +1,179 @@
...
+  symmetry. apply Z.eqb_neq. congruence.
+Qed.
+
+Instance Op_is_even : UnOp is_even :=
+  { TUOp := Z.even ; TUOpInj := is_evenE }.
+Add Zify UnOp Op_is_even.
+
+
+
+Ltac Zify.zify_post_hook ::= Z.to_euclidean_division_equations.
```
Comment (JasonGross) [inline theories/micromega/ZifyInt63.v:179]: Should importing this module actually override any other use of the post-hook?  Perhaps instead we should add a boolean:
```coq
Ltac zify_convert_to_euclidean_division_equations := constr:(false).
```
in `Zify`, and then add something like
```coq
lazymatch zify_convert_to_euclidean_division_equations with
| true => Z.to_euclidean_division_equations
| false => idtac
end
```
in `zify`, and then just have `Ltac Zify.zify_convert_to_euclidean_division_equations ::= constr:(true).` here?

File: doc/sphinx/addendum/micromega.rst (hunk 3 above)
Comment (fajb) [reply doc/sphinx/addendum/micromega.rst:284]: Require is enough.

File: theories/micromega/ZifyInt63.v (hunk 5 above)
Comment (fajb) [reply theories/micromega/ZifyInt63.v:179]: That would be nice but this creates a cyclic dependency between PreOmega and Zify.

Comment (JasonGross) [reply theories/micromega/ZifyInt63.v:179]: You can solve the cyclic dependency issue with the following:
In `zify`:
```coq
Ltac zify_convert_to_euclidean_division_equations := constr:(false).
Ltac zify_internal_to_euclidean_division_equations := idtac.
```
and
```coq
lazymatch zify_convert_to_euclidean_division_equations with
| true => zify_internal_to_euclidean_division_equations
| false => idtac
end
```
In `PreOmega`:
```coq
Ltac Zify.zify_internal_to_euclidean_division_equations ::= Z.to_euclidean_division_equations.
```

I did something like this with
https://github.com/coq/coq/blob/8907a5b7d2b91bff0b573956a05e4679b5238161/theories/nsatz/NsatzTactic.v#L349-L352
https://github.com/coq/coq/blob/8907a5b7d2b91bff0b573956a05e4679b5238161/theories/nsatz/Nsatz.v#L37-L38
where I didn't want to have the `nsatz` tactic depend on the real axioms, but didn't want to break backwards-compatibility of `nsatz` handling goals about the reals.

**Comment by fajb** [comment]
@vbgl I would be glad to also have your review on this one. For this one, no pressure, I think we should have a benchmark.

File: plugins/micromega/certificate.ml [hunk 6]
```diff
@@ -1007,6 +1007,21 @@ let gen_bench (tac, prover) can_enum prfdepth sys =
...
+      | None -> s :: acc
+      | Some s' -> s' :: acc)
+    [] sys
+
+let pre_process sys =
+  let sys1 = subst sys in
+  let sys2 = normalise sys1 in
+  let bnd = bound_monomials sys2 in
+  let sys = bnd @ saturate_by_linear_equalities sys2 @ sys2 in
+  sys
```
Comment (vbgl) [inline plugins/micromega/certificate.ml:1023]: The fix to #12790 might need to be applied here too.

Comment (fajb) [reply plugins/micromega/certificate.ml:1023]: The rebase found it. Fixed by 1fd949ac27

**Review by silene — DISMISSED** [review]
Something is going horribly wrong with this pull request and I am not sure a simple rebase will fix it. It might be better to locally create a new branch and to cherry-pick the handful of relevant commits.

**Comment by fajb** [comment]
@silene , I messed up a rebase. Now, this should be fine.

**Comment by fajb** [comment]
The failure seems unrelated.

@maximedenes is it possible to run benchmarks? A workaround for pendulum offlineness ?

**Comment by maximedenes** [comment]
@fajb I believe @ppedrot is about to finish the port of the bench to Gitlab CI (after he merged my PR by mistake yesterday). I'll monitor this PR and launch a bench as soon as the infrastructure is ready.

**Comment by ppedrot** [comment]
@maximedenes the bench should be ready now, just rebase this PR and manually launch the bench in the gitlab CI interface.

**Comment by maximedenes** [comment]
> the bench should be ready now, just rebase this PR and manually launch the bench in the gitlab CI interface.

Thanks, bench started!

**Comment by maximedenes** [comment]
@fajb doesn't this PR contain some unrelated changes?

I see 4 commits:
- [zify] Add support for Int63.int …
- [micromega/zify] expose more API for plugin users
- [micromega] detect simple cutting planes at pre-processing time
- [zify] Use flag for Z.to_euclidean_division_equations.

Shouldn't it be just the first one? How do the other relate to int63? Sorry if it is a naive question, I'm just trying to get some context before reviewing.

**Comment by fajb** [comment]
I admit I have a tendency to piggy-back sometimes unrelated commits ;)
- `[zify] Add support for Int63.int` is indeed the most relevant.
- `[zify] Use flag for Z.to_euclidean_division_equations` avoids overwriting the `zify_post_hook`. As @JasonGross  made the point that would not be very user-friendly. But eliminating `mod` is a must if you deal with `int`.
- `[micromega] detect simple cutting planes at pre-processing time` solves an inefficiency which you notice when you want to discharge many `mod` operators which you notice when you `zify` native `int`.
- `[micromega/zify] expose more API for plugin users` is indeed not related. sorry. but will not do any harm.

**Comment by ppedrot** [comment]
[Bench](https://gitlab.com/coq/coq/-/jobs/703066552) not super great:
```
┌─────────────────────────────┬─────────────────────────┬─────────────────────────────────────────────┬─────────────────────────────────────────────┬───────────────────────────────┬───────────────────┐
│                             │      user time [s]      │                 CPU cycles                  │              CPU instructions               │     max resident mem [KB]     │    mem faults     │
│                             │                         │                                             │                                             │                               │                   │
│                package_name │     NEW     OLD PDIFF   │               NEW               OLD PDIFF   │               NEW               OLD PDIFF   │        NEW        OLD PDIFF   │  NEW  OLD PDIFF   │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                   coq-verdi │  121.82  122.54 -0.59 % │      337292254409      338102704713 -0.24 % │      418880386051      418756691250 +0.03 % │     572760     572648 +0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                    coq-hott │  332.04  333.87 -0.55 % │      902195316944      904194434018 -0.22 % │     1466171649992     1466154278041 +0.00 % │     678388     678264 +0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│               coq-fiat-core │  108.44  108.84 -0.37 % │      309751958000      309277352265 +0.15 % │      411812869019      411400316532 +0.10 % │     486676     485964 +0.15 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│             coq-fiat-crypto │ 5096.84 5111.25 -0.28 % │    14162796970794    14199046870245 -0.26 % │    24327491812161    24393284665383 -0.27 % │    2436416    2431872 +0.19 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│      coq-mathcomp-ssreflect │   52.47   52.57 -0.19 % │      143456719043      143293280673 +0.11 % │      185100390141      185051644478 +0.03 % │     519892     519784 +0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│      coq-mathcomp-character │  163.18  163.44 -0.16 % │      454804331532      454370320298 +0.10 % │      627612665821      627533567289 +0.01 % │     753116     753120 -0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│              coq-verdi-raft │ 1280.05 1281.42 -0.11 % │     3565093376856     3567187147873 -0.06 % │     4957781449323     4955781503770 +0.04 % │     930620     930456 +0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│            coq-math-classes │  193.85  194.05 -0.10 % │      540264267673      540617164076 -0.07 % │      712361658772      712302476868 +0.01 % │     505452     505288 +0.03 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│          coq-mathcomp-field │  294.88  295.13 -0.08 % │      822058364121      821738815135 +0.04 % │     1263161754869     1263160206522 +0.00 % │     825484     826996 -0.18 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                coq-rewriter │  624.10  624.60 -0.08 % │     1733774551014     1735275812642 -0.09 % │     2644187819075     2644484245583 -0.01 % │    1022388    1031848 -0.92 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│       coq-performance-tests │ 2783.75 2785.32 -0.06 % │     7757051313121     7761236139102 -0.05 % │    14737934335558    14740211758779 -0.02 % │    4316440    4316400 +0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│      coq-mathcomp-odd-order │ 1083.40 1083.77 -0.03 % │     3015424797128     3017926884033 -0.08 % │     4794941481431     4795268369058 -0.01 % │     990952     991776 -0.08 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                  coq-geocoq │ 1496.79 1496.72 +0.00 % │     4172129825716     4174003602559 -0.04 % │     6311318955554     6310989622581 +0.01 % │    1092428    1149832 -4.99 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│             coq-lambda-rust │ 1404.12 1403.83 +0.02 % │     3909100131380     3909592912370 -0.01 % │     5546809641844     5548391785590 -0.03 % │    1119440    1117076 +0.21 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│       coq-mathcomp-solvable │  175.90  175.77 +0.07 % │      489384295307      489387477929 -0.00 % │      687076311484      687042660033 +0.00 % │     683440     683288 +0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│            coq-fiat-parsers │  659.60  659.08 +0.08 % │     1846768231089     1848149847172 -0.07 % │     2780503652726     2780191972684 +0.01 % │    3001348    3001408 -0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                coq-compcert │  684.76  684.19 +0.08 % │     1908525686470     1905412720309 +0.16 % │     2634067367447     2633615507422 +0.02 % │    1130924    1130744 +0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│       coq-mathcomp-fingroup │   49.48   49.43 +0.10 % │      137149857872      136852497665 +0.22 % │      189532858156      189435453615 +0.05 % │     486236     486244 -0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│            coq-engine-bench │ 1262.79 1261.13 +0.13 % │     3536659770740     3534121836126 +0.07 % │     6072187588761     6071527012239 +0.01 % │    3995016    3995988 -0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│               coq-fourcolor │ 2506.81 2502.79 +0.16 % │     6989170308563     6979889323809 +0.13 % │    11466341538611    11467703590012 -0.01 % │     764240     764232 +0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                 coq-unimath │ 4091.60 4084.14 +0.18 % │    11384473501938    11362176135377 +0.20 % │    21553870330009    21550294593028 +0.02 % │    1111304    1111500 -0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                         coq │  557.22  556.16 +0.19 % │     1560338588580     1557453126645 +0.19 % │     2136125414617     2131271407635 +0.23 % │     594180     592560 +0.27 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                   coq-color │  635.48  634.27 +0.19 % │     1772594256457     1771799492437 +0.04 % │     2267890502132     2266535696316 +0.06 % │    1462568    1462532 +0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                    coq-corn │ 1719.26 1715.64 +0.21 % │     4789745521393     4780248686147 +0.20 % │     7340390514241     7330765897146 +0.13 % │     758036     758052 -0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                 coq-coqutil │   60.77   60.63 +0.23 % │      168866592932      168386154853 +0.29 % │      210199830004      211228873407 -0.49 % │     533588     534308 -0.13 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│              coq-coquelicot │   73.29   73.09 +0.27 % │      200483016083      200265825955 +0.11 % │      260105143640      260071526787 +0.01 % │     582556     581856 +0.12 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│        coq-mathcomp-algebra │  143.08  142.65 +0.30 % │      397865911795      397439807873 +0.11 % │      515100042611      515074966673 +0.00 % │     563916     564092 -0.03 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                 coq-bignums │   59.63   59.11 +0.88 % │      165452018272      163972629512 +0.90 % │      223408752920      221168750143 +1.01 % │     477624     477368 +0.05 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│ coq-rewriter-perf-SuperFast │ 1062.20 1048.76 +1.28 % │     2955078693881     2920419713019 +1.19 % │     4610681350036     4610195855026 +0.01 % │    1070500    1070620 -0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                   coq-flocq │  169.58  167.21 +1.42 % │      470877376148      465506555495 +1.15 % │      592687597147      583879563569 +1.51 % │     822024     822776 -0.09 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                coq-coqprime │   86.73   85.01 +2.02 % │      239110868705      233722210002 +2.31 % │      339532902633      330345615790 +2.78 % │     769508     769144 +0.05 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                coq-bedrock2 │  232.22  225.30 +3.07 % │      643385745469      623756718351 +3.15 % │     1060953483475     1028765253480 +3.13 % │    1087188    1087268 -0.01 % │    0    0  +nan % │
└─────────────────────────────┴─────────────────────────┴─────────────────────────────────────────────┴─────────────────────────────────────────────┴───────────────────────────────┴───────────────────┘
```

**Comment by ppedrot** [comment]
The patch has uneven consequences on the timing. There is one line in fiat-crypto that goes from 20s to 5s, but bedrock2 has a couple of lines that got slower by a few seconds.

**Comment by fajb** [comment]
@ppedrot thanks for the investigation. This is indeed not great.

**Comment by fajb** [comment]
I do not have time to investigate further the average loss of efficiency.
I have just pushed a version dropping the offending commit.

**Comment by samuelgruetter** [comment]
I'm not sure if this flag to control whether `Z.to_euclidean_division_equations` is called or not can be used the way it was intended. While testing @fajb's `for_itauto` branch on bedrock2, I ran into a case where `lia` runs forever. I was using [this commit](https://github.com/fajb/coq/commit/10db7b18984e781e03da6589b3e163457a485648), which seems to have the same content as the one in this PR.

I noticed that if I do

```coq
Require Import Coq.micromega.Lia.

Print Ltac Zify.zify_convert_to_euclidean_division_equations_flag.
(* prints
Ltac Zify.zify_convert_to_euclidean_division_equations_flag := false
as expected, and that's safe. *)

Require Import Cdcl.Itauto. (* some other file that happens to import Coq.micromega.ZifyInt63 *)

Print Ltac Zify.zify_convert_to_euclidean_division_equations_flag.
(* prints
Ltac Zify.zify_convert_to_euclidean_division_equations_flag := true
Redefined by:
ZifyInt63
*)
```

so as soon as I imported that file, all `lia` invocations will first run `Z.to_euclidean_division_equations`, which creates many useless implications that can make `lia` run forever.

As long as `lia` does not handle CNF conversion of implications efficiently, calling `Z.to_euclidean_division_equations` is an inherently unsafe thing to do and should be opt-in (which I guess was intended by @fajb's last commit).

Therefore, I would suggest the following "policy": Every file that does 

`Ltac Zify.zify_convert_to_euclidean_division_equations_flag ::= true` 

MUST set it back to

 `Ltac Zify.zify_convert_to_euclidean_division_equations_flag := false` 

at the end of the file.

If I understand correctly, this would solve the timeout issues I got in bedrock2.

(And note that Coq CI for bedrock2 succeeds here because the bedrock2 version that it tests never imports `Coq.micromega.ZifyInt63`, but I'd like to be able to (transitively) import that file without breaking existing proofs).

**Comment by fajb** [comment]
@samuelgruetter , I guess your suggestion is for `ZifyInt63` to NOT set the flag.
The unfortunate effect is that if you have `int` operators in your goal, `lia` will not work and you will have to manually set/unset the flag. Would not this make the feature almost unusable for non-expert users.
On the other hand, transitively importing `ZifyInt63` will not break existing developments. I understand the concern...

A slightly better way may be to run `Z.to_euclidean_division_equations` only when transforming goals using `int`. 
This is harder to implement. Would you consider this sufficiently safe?

**Comment by samuelgruetter** [comment]
> @samuelgruetter , I guess your suggestion is for `ZifyInt63` to NOT set the flag.

Ah yes just noticed now that it's at the very end of the file.

I see so we basically have three options, and each of them has a reason for not chosing it:

1. Always run `Z.to_euclidean_division_equations` by default: Bad because it makes existing developments slower, or even unusably slow. Workaround: Users have to deactivate the flag on an opt-out basis.
2. Never run `Z.to_euclidean_division_equations` by default: Bad because `lia` becomes unusable for `int` goals, and users think that it simply doesn't support `int`. Workaround: Users have to activate the flag on an opt-in basis.
3. Only run `Z.to_euclidean_division_equations` if `int` expressions are present in the goal: Bad because adding an unused `int` to a goal might turn a goal on which `lia` fails into a goal on which it succeeds, or a goal on which it succeeds into a goal on which runs forever, and removing an unused `int` from a goal might turn a goal on which `lia` succeeds into a goal on which it fails. Workaround: Just be aware of this...

Given this, I think I don't have a strong opinion on which one to pick.

**Comment by JasonGross** [comment]
Is there hope that the efficiency could be improved to the point where we can always run `Z.to_euclidean_division_equations` without it costing too much?

-------

> A slightly better way may be to run `Z.to_euclidean_division_equations` only when transforming goals using `int`.
> This is harder to implement. Would you consider this sufficiently safe?

This is not so hard:
```coq
Ltac Zify.zify_convert_to_euclidean_division_equations_flag ::=
  let true_if_has_int T := (* maybe we want to match on more than just [int], e.g., if we have something like [Int63.eqb 0 0 = true] as our goal or something? *)
    match T with
    | context[int] => true
    end in
  match goal with
  | [ |- ?T ] => true_if_has_int T
  | [ H : ?T |- _ ] => true_if_has_int T
  | [ H := ?T |- _ ] => true_if_has_int T
  | _ => false
  end.
```

File: doc/sphinx/addendum/micromega.rst [hunk 7]
```diff
@@ -277,13 +277,18 @@ obtain :math:`-1`. By Theorem :ref:`Psatz <psatz_thm>`, the goal is valid.
    :name: zify
 
    This tactic is internally called by :tacn:`lia` to support additional types e.g., :g:`nat`, :g:`positive` and :g:`N`.
-   By requiring the module ``ZifyBool``, the boolean type :g:`bool` and some comparison operators are also supported.
+   Some additional support is provided by the following modules
```
Comment (JasonGross) [inline doc/sphinx/addendum/micromega.rst:280]:
```suggestion
   Some additional support is provided by the following modules:
```

File: doc/sphinx/addendum/micromega.rst [hunk 8]
```diff
@@ -277,13 +277,18 @@ obtain :math:`-1`. By Theorem :ref:`Psatz <psatz_thm>`, the goal is valid.
...
+   + For comparison operators (e.g., :g:`Z.compare`), require the module :g:`ZifyComparison`.
+   + For native 63 bit integers, require the module :g:`ZifyInt63`.
+
    :tacn:`zify` can also be extended by rebinding the tactics `Zify.zify_pre_hook` and `Zify.zify_post_hook` that are
    respectively run in the first and the last steps of :tacn:`zify`.
 
    + To support :g:`Z.div` and :g:`Z.modulo`: ``Ltac Zify.zify_post_hook ::= Z.div_mod_to_equations``.
    + To support :g:`Z.quot` and :g:`Z.rem`: ``Ltac Zify.zify_post_hook ::= Z.quot_rem_to_equations``.
-   + To support :g:`Z.div`, :g:`Z.modulo`, :g:`Z.quot`, and :g:`Z.rem`: ``Ltac Zify.zify_post_hook ::= Z.to_euclidean_division_equations``.
+   + To support :g:`Z.div`, :g:`Z.modulo`, :g:`Z.quot`, and :g:`Z.rem`: either ``Ltac Zify.zify_post_hook ::= Z.to_euclidean_division_equations`` or ``Ltac Zify.zify_convert_to_euclidean_division_equations_flag ::= constr(true)``.
```
Comment (JasonGross) [inline doc/sphinx/addendum/micromega.rst:291]:
```suggestion
   + To support :g:`Z.div`, :g:`Z.modulo`, :g:`Z.quot`, and :g:`Z.rem`: either ``Ltac Zify.zify_post_hook ::= Z.to_euclidean_division_equations`` or ``Ltac Zify.zify_convert_to_euclidean_division_equations_flag ::= constr:(true)``.
```

**Comment by samuelgruetter** [comment]
> This is not so hard:
> 
> ```coq
> Ltac Zify.zify_convert_to_euclidean_division_equations_flag ::=
>   let true_if_has_int T := (* maybe we want to match on more than just [int], e.g., if we have something like [Int63.eqb 0 0 = true] as our goal or something? *)
>     match T with
>     | context[int] => constr:(true)
>     end in
>   match goal with
>   | [ |- ?T ] => true_if_has_int T
>   | [ H : ?T |- _ ] => true_if_has_int T
>   | [ H := ?T |- _ ] => true_if_has_int T
>   | _ => constr:(false)
>   end.
> ```

Here's a case where this tactic doesn't work:

```coq
Require Import ZArith Int63 ZifyInt63 Lia.
Open Scope Z_scope.

Ltac Zify.zify_convert_to_euclidean_division_equations_flag ::=
  let true_if_has_int T := (* maybe we want to match on more than just [int], e.g., if we have something like [Int63.eqb 0 0 = true] as our goal or something? *)
    match T with
    | context[int] => constr:(true)
    end in
  match goal with
  | [ |- ?T ] => true_if_has_int T
  | [ H : ?T |- _ ] => true_if_has_int T
  | [ H := ?T |- _ ] => true_if_has_int T
  | _ => constr:(false)
  end.

Goal forall (x y: Z),
    to_Z (of_Z x) = to_Z (of_Z y) ->
    x mod 2 ^ 63 = y mod 2 ^ 63.
Proof.
  intros.
  let r := Zify.zify_convert_to_euclidean_division_equations_flag in idtac r.  (* false *)
  Fail lia.
  Ltac Zify.zify_convert_to_euclidean_division_equations_flag ::= constr:(true).
  lia.
Qed.
```

The AST of this goal contains no occurrence of `int`, and yet, it's a goal about `int` that requires preprocessing with `Z.to_euclidean_division_equations`.

**Comment by JasonGross** [comment]
> The AST of this goal contains no occurrence of int, and yet, it's a goal about int that requires preprocessing with Z.to_euclidean_division_equations.

Yes, this was my comment about "maybe we want to match on more than just [int], e.g., if we have something like [Int63.eqb 0 0 = true] as our goal or something?". If you add a `context` case for each int63 primitive that zify handles, that should be enough.

**Comment by fajb** [comment]
@samuelgruetter @JasonGross it seems that there is no easy solution fulfilling the needs of everyone.
I'll keep the flag set by default so that `int` has a proper `zify` by default.
Advanced users may need to disable it or set it depending on a more complex criterion.

**Comment by fajb** [comment]
@vbgl could you look at the PR? Thanks. I think it has reached a fixpoint. And the failure of the CI is not related.

**Review by vbgl — APPROVED** [review]
CI went through.

The diff is slightly difficult to read due to reformatting, I guess.

**Comment by vbgl** [comment]
Maxime: you are assigned to this PR. Is there something preventing the merge to happen? Thanks.

**Comment by ejgallego** [comment]
> The diff is slightly difficult to read due to reformatting, I guess.

That's a PITA indeed [we suggested to have a weaker formatting invariant as in other projects but Coq finally went for quite a strong stanza] , there used to be `ocamlformat-diff` but it has silently disappeared, only existing tool now is https://github.com/hhugo/merge-fmt

File: doc/sphinx/addendum/micromega.rst [hunk 9]
```diff
@@ -277,13 +277,18 @@ obtain :math:`-1`. By Theorem :ref:`Psatz <psatz_thm>`, the goal is valid.
    :name: zify
 
    This tactic is internally called by :tacn:`lia` to support additional types e.g., :g:`nat`, :g:`positive` and :g:`N`.
```
Comment (jfehrle) [inline doc/sphinx/addendum/micromega.rst:279]:
```suggestion
   This tactic is internally called by :tacn:`lia` to support additional types, e.g. :g:`nat`, :g:`positive` and :g:`N`.
```

File: doc/sphinx/addendum/micromega.rst [hunk 10]
```diff
@@ -277,13 +277,18 @@ obtain :math:`-1`. By Theorem :ref:`Psatz <psatz_thm>`, the goal is valid.
...
-   By requiring the module ``ZifyBool``, the boolean type :g:`bool` and some comparison operators are also supported.
+   Some additional support is provided by the following modules:
```
Comment (jfehrle) [inline doc/sphinx/addendum/micromega.rst:280]:
```suggestion
   Additional support is provided by the following modules:
```

File: doc/sphinx/addendum/micromega.rst [hunk 11]
```diff
@@ -277,13 +277,18 @@ obtain :math:`-1`. By Theorem :ref:`Psatz <psatz_thm>`, the goal is valid.
...
+   + For comparison operators (e.g., :g:`Z.compare`), require the module :g:`ZifyComparison`.
+   + For native 63 bit integers, require the module :g:`ZifyInt63`.
+
    :tacn:`zify` can also be extended by rebinding the tactics `Zify.zify_pre_hook` and `Zify.zify_post_hook` that are
    respectively run in the first and the last steps of :tacn:`zify`.
 
    + To support :g:`Z.div` and :g:`Z.modulo`: ``Ltac Zify.zify_post_hook ::= Z.div_mod_to_equations``.
    + To support :g:`Z.quot` and :g:`Z.rem`: ``Ltac Zify.zify_post_hook ::= Z.quot_rem_to_equations``.
-   + To support :g:`Z.div`, :g:`Z.modulo`, :g:`Z.quot`, and :g:`Z.rem`: ``Ltac Zify.zify_post_hook ::= Z.to_euclidean_division_equations``.
+   + To support :g:`Z.div`, :g:`Z.modulo`, :g:`Z.quot`, and :g:`Z.rem`: either ``Ltac Zify.zify_post_hook ::= Z.to_euclidean_division_equations`` or ``Ltac Zify.zify_convert_to_euclidean_division_equations_flag ::= constr:(true)``.
```
Comment (jfehrle) [inline doc/sphinx/addendum/micromega.rst:291]:
```suggestion
   + To support :g:`Z.div`, :g:`Z.modulo`, :g:`Z.quot` and :g:`Z.rem`: either ``Ltac Zify.zify_post_hook ::= Z.to_euclidean_division_equations`` or ``Ltac Zify.zify_convert_to_euclidean_division_equations_flag ::= constr:(true)``.
```

**Review by jfehrle — COMMENTED** [review]
Minor suggestions.

**Comment by fajb** [comment]
ping @maximedenes

**Comment by maximedenes** [comment]
@fajb sorry for not reacting earlier. I just launched a final benchmark. I see that you removed the commits that were more or less independent from this PR, which is nice. I was wondering if you intended to push them as new PRs.

**Comment by fajb** [comment]
>  was wondering if you intended to push them as new PRs.
I'll think about it but there is no hurry.
- Exposing more of the API makes sense for one of my project
- Improving cutting planes generation needs more work to truly improve performance

**Comment by fajb** [comment]
@maximedenes  it seems the CI went well except for iris that seems down..,

**Comment by SkySkimmer** [comment]
Iris issue due to https://github.com/coq/coq/pull/13159
Rebase to get a new run

**Comment by fajb** [comment]
Thanks @SkySkimmer . CI passed.

**Comment by maximedenes** [comment]
@coqbot merge now

@fajb Thanks again for your work!

**Comment by maximedenes** [comment]
FTR, here are the results of the bench:

```
┌─────────────────────────────┬─────────────────────────┬─────────────────────────────────────────────┬─────────────────────────────────────────────┬────────────────────────────────┬───────────────────┐
│                             │      user time [s]      │                 CPU cycles                  │              CPU instructions               │     max resident mem [KB]      │    mem faults     │
│                             │                         │                                             │                                             │                                │                   │
│                package_name │     NEW     OLD PDIFF   │               NEW               OLD PDIFF   │               NEW               OLD PDIFF   │        NEW        OLD  PDIFF   │  NEW  OLD PDIFF   │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│              coq-coquelicot │   69.88   70.48 -0.85 % │      191757058657      192189329707 -0.22 % │      245798823723      245818432197 -0.01 % │     584564     583472  +0.19 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│       coq-mathcomp-fingroup │   48.10   48.29 -0.39 % │      133295404468      133260733594 +0.03 % │      183824642341      183770115245 +0.03 % │     486552     486376  +0.04 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                coq-coqprime │   80.96   81.14 -0.22 % │      222465134055      222932055908 -0.21 % │      312056980611      312004357665 +0.02 % │     768156     768068  +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│      coq-mathcomp-odd-order │ 1064.40 1066.57 -0.20 % │     2965019875662     2969982920121 -0.17 % │     4722172275096     4722303174518 -0.00 % │     988796     988824  -0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│  coq-performance-tests-lite │  548.13  549.21 -0.20 % │     1531077389893     1533641180111 -0.17 % │     2792339121299     2793310444347 -0.03 % │     747308     747228  +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                    coq-hott │  324.28  324.88 -0.18 % │      880277031842      881047314764 -0.09 % │     1424783972447     1424780890621 +0.00 % │     644640     644496  +0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│      coq-mathcomp-character │  157.25  157.52 -0.17 % │      436984010730      437341785043 -0.08 % │      603982320378      603887418985 +0.02 % │     718948     708600  +1.46 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│        coq-mathcomp-algebra │  140.98  141.22 -0.17 % │      391704591635      392162724224 -0.12 % │      502364855398      502362915386 +0.00 % │     561048     566576  -0.98 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                coq-bedrock2 │  225.22  225.54 -0.14 % │      623504339026      622933078474 +0.09 % │     1025465208012     1025541106633 -0.01 % │    1086916    1086904  +0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│               coq-fourcolor │ 2567.92 2571.02 -0.12 % │     7159729778548     7168188489113 -0.12 % │    11812997724142    11811342047943 +0.01 % │     775080     775004  +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                coq-rewriter │  610.78  611.36 -0.09 % │     1696301566042     1698022953719 -0.10 % │     2580320972527     2580983772000 -0.03 % │     997348    1036316  -3.76 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│ coq-rewriter-perf-SuperFast │ 1066.75 1067.62 -0.08 % │     2969109518883     2970445792124 -0.04 % │     4652385017269     4652269020786 +0.00 % │    1190088    1070816 +11.14 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│             coq-fiat-crypto │ 4960.36 4964.06 -0.07 % │    13783788854913    13793340431901 -0.07 % │    23779310291196    23779170279298 +0.00 % │    2399596    2397744  +0.08 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                   coq-color │  536.36  536.75 -0.07 % │     1497972801538     1496923817211 +0.07 % │     1899765308342     1898920791927 +0.04 % │    1413720    1413656  +0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                    coq-corn │ 1645.25 1646.40 -0.07 % │     4581066379776     4583311213961 -0.05 % │     7003385804721     7001443850612 +0.03 % │     831148     830484  +0.08 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                   coq-verdi │  122.66  122.74 -0.07 % │      337795128064      337824385009 -0.01 % │      414445570244      414401152183 +0.01 % │     616928     616876  +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│            coq-fiat-parsers │  650.29  650.48 -0.03 % │     1822179638077     1822620155068 -0.02 % │     2742606758959     2741639257270 +0.04 % │    2997536    2997652  -0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                 coq-unimath │ 4013.46 4014.39 -0.02 % │    11169139037158    11168382667137 +0.01 % │    21167935688829    21165895210350 +0.01 % │    1113256    1113164  +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│             coq-lambda-rust │ 1269.55 1269.73 -0.01 % │     3532500211684     3533358734278 -0.02 % │     4964844178636     4963880688352 +0.02 % │    1218684    1218732  -0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                 coq-coqutil │   61.21   61.21 +0.00 % │      170214380319      170549759433 -0.20 % │      212414106979      212320568644 +0.04 % │     530760     529652  +0.21 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│       coq-mathcomp-solvable │  172.05  171.99 +0.03 % │      478733377640      478648707589 +0.02 % │      674904061344      674912678929 -0.00 % │     691988     691988  +0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│          coq-mathcomp-field │  227.32  227.04 +0.12 % │      632305673773      632363266011 -0.01 % │      961802260007      961758269384 +0.00 % │     696968     697184  -0.03 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│       coq-engine-bench-lite │  385.40  384.91 +0.13 % │     1083637925946     1082209553769 +0.13 % │     1840856811510     1838961254093 +0.10 % │    3507328    3507480  -0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                coq-compcert │  666.28  665.28 +0.15 % │     1856501919665     1853488172176 +0.16 % │     2560919365900     2560301335532 +0.02 % │    1130344    1129960  +0.03 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│               coq-fiat-core │  106.32  106.16 +0.15 % │      302940778228      302236236910 +0.23 % │      401608804349      401303295944 +0.08 % │     492144     491000  +0.23 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                         coq │  533.96  532.90 +0.20 % │     1486869156907     1486829081025 +0.00 % │     2000832949725     1998777536199 +0.10 % │     591048     589432  +0.27 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                  coq-geocoq │ 1468.78 1465.61 +0.22 % │     4093352977349     4089259600585 +0.10 % │     6211254091491     6211485157576 -0.00 % │    1126356    1116132  +0.92 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│              coq-verdi-raft │ 1261.92 1258.78 +0.25 % │     3512995958211     3506114957974 +0.20 % │     4897912874553     4898148887354 -0.00 % │     932764     932820  -0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                 coq-bignums │   58.07   57.90 +0.29 % │      160637168574      160365983049 +0.17 % │      215684727966      215632585196 +0.02 % │     473556     472020  +0.33 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│            coq-math-classes │  215.91  215.26 +0.30 % │      601609821572      600344702175 +0.21 % │      828754184066      828761984915 -0.00 % │     519376     519196  +0.03 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│                   coq-flocq │  160.05  159.41 +0.40 % │      444050866700      442705919977 +0.30 % │      552949926020      552317638900 +0.11 % │     822288     822208  +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼────────────────────────────────┼───────────────────┤
│      coq-mathcomp-ssreflect │   50.57   50.36 +0.42 % │      138366950547      137872603417 +0.36 % │      175821150970      175821366486 -0.00 % │     525772     525848  -0.01 % │    0    0  +nan % │
└─────────────────────────────┴─────────────────────────┴─────────────────────────────────────────────┴─────────────────────────────────────────────┴────────────────────────────────┴───────────────────┘
```

Seems fine.

**Comment by maximedenes** [comment]
@coqbot merge now
